US08058431B2
6) 6-Methoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide
1.00 g (3.54 mmol) 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-thione was slowly added to 5 ml (80 mmol) methyl iodide at 0° C. and stirred for 1 h at room temperature. The solution was filtrated and the residue washed with ethyl ether and dichloromethane.

reactant | 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-thione | 3.54 mmol, 1.00 g | COC=1C=C2C(N=C(N(C2=CC1)C)C1=CC=CC=C1)=S | C16H14N2OS
reactant | methyl iodide | 80 mmol, 5 ml | CI | CH3I
product | 6-Methoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide | [I-].COC=1C=C2C(=NC(=[N+](C2=CC1)C)C1=CC=CC=C1)SC | InChI=1S/C17H17N2OS.HI/c1-19-15-10-9-13(20-2)11-14(15)17(21-3)18-16(19)12-7-5-4-6-8-12;/h4-11H,1-3H3;1H/q+1;/p-1
